### PR TITLE
Adapt poly.v to semimodules, semialgebras, and semilinear functions

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR generalizes some results in `poly.v` to the "semi" case using #1125.

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
This PR is almost done, but writing the changelog entries is going to take more time than writing the code 😩 I would like to know how others deal with it.

**Comment by CohenCyril** [comment]
> This PR is almost done, but writing the changelog entries is going to take more time than writing the code 😩 I would like to know how others deal with it.

I did this: it work badly, it produces a log in the old style, but it's better than nothing.
https://github.com/math-comp/tools

**Comment by proux01** [comment]
It probably won't work for all the generalized lemmas here that don't even appear in the changelog (since only the section variable changed)

**Comment by pi8027** [comment]
What we need is probably a tool to dump the list of declarations in a library (e,g,. `poly.v`) and take a diff of such two lists.

**Comment by CohenCyril** [comment]
> What we need is probably a tool to dump the list of declarations in a library (e,g,. `poly.v`) and take a diff of such two lists.

@gares would you know what to use?

**Comment by proux01** [comment]
Something like `Print Module`?

**Comment by gares** [comment]
You have all the APIs to traverse modules in Elpi, but only the kernel view of them ,ie. No notations and co.

**Comment by pi8027** [comment]
I won't make further progress on this PR before May 13th. If someone would like this PR to be merged soon, feel free to add the CHANGELOG entries and proceed without me. (A review is still needed.)

**Comment by pi8027** [comment]
I may have erased a few deprecation notations/constants while rebasing this PR (since the diff was not very readable). I will double-check.

File: algebra/poly.v [hunk 1]
```diff
@@ -2162,6 +2163,44 @@ Proof. by apply/polyP => i; rewrite !(coef_map, coef_nderivn) //= rmorphMn. Qed.
...
+Section MapPoly.
+
+Variables aR rR : nzRingType.
+
+Variable f : {rmorphism aR -> rR}.
+Implicit Types p : {poly aR}.
+
+Local Notation "p ^f" := (map_poly f p) : ring_scope.
+
+Fact map_poly_is_zmod_morphism : zmod_morphism (map_poly f).
```
Comment (pi8027) [inline algebra/poly.v:2175]: This can be deprecated.

File: algebra/poly.v [hunk 2]
```diff
@@ -1571,35 +1097,24 @@ apply/polyP=> i; rewrite coef_deriv coefMn !coefXn eqSS.
 by case: eqP => [-> // | _]; rewrite !mul0rn.
 Qed.
 
-Fact deriv_is_linear : linear deriv.
+Fact deriv_is_semilinear : semilinear deriv.
```
Comment (Tragicus) [inline algebra/poly.v:1096]: `deriv_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 3]
```diff
@@ -1571,35 +1097,24 @@ apply/polyP=> i; rewrite coef_deriv coefMn !coefXn eqSS.
...
 Proof.
-move=> k p q; apply/polyP=> i.
-by rewrite !(coef_deriv, coefD, coefZ) mulrnDl mulrnAr.
+split=> [k p|p q]; apply/polyP=> i.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
split=> [k p|p q]; apply/polyP => i.
```

File: algebra/poly.v [hunk 4]
```diff
@@ -1653,30 +1164,23 @@ move=> p /polyOverP Kp /= n; apply/polyOverP=> i.
 by rewrite coef_derivn rpredMn.
 Qed.
 
-Fact derivn_is_linear n : linear (derivn n).
-Proof. by elim: n => // n IHn a p q; rewrite derivnS IHn linearP. Qed.
+Fact derivn_is_semilinear n : semilinear (derivn n).
```
Comment (Tragicus) [inline algebra/poly.v:1163]: `derivn_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 5]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+
+Lemma nderivnXn m n : ('X^m)^`N(n) = 'X^(m - n) *+ 'C(m, n).
+Proof.
+apply/polyP=> i; rewrite coef_nderivn coefMn !coefXn.
+have [lt_m_n | le_n_m] := ltnP m n.
+  by rewrite eqn_leq leqNgt ltn_addr // mul0rn bin_small.
+by rewrite -{1 3}(subnKC le_n_m) eqn_add2l; case: eqP => [->|]; rewrite ?mul0rn.
+Qed.
+
+Fact nderivn_is_semilinear n : semilinear (nderivn n).
```
Comment (Tragicus) [inline algebra/poly.v:1253]: nderivn_is_linear should be kept and deprecated.

File: algebra/poly.v [hunk 6]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+Proof.
+split=> [k p|p q]; apply/polyP=> i.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
split=> [k p|p q]; apply/polyP => i.
```

File: algebra/poly.v [hunk 7]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+
+Fact coef_opp_poly p i : (opp_poly p)`_i = - p`_i.
+Proof.
+rewrite unlock coef_poly /=.
+by case: leqP => // le_p_i; rewrite nth_default ?oppr0.
+Qed.
+
+Fact add_polyN : left_inverse 0%:P opp_poly (@add_poly _).
+Proof.
+by move=> p; apply/polyP=> i; rewrite coefD coef_opp_poly coef0 addNr.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
by move=> p; apply/polyP => i; rewrite coefD coef_opp_poly coef0 addNr.
```

File: algebra/poly.v [hunk 8]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+
+Lemma size_polyN p : size (- p) = size p.
+Proof.
+by apply/eqP; rewrite eqn_leq -{3}(opprK p) -[-%R]/opp_poly unlock !size_poly.
+Qed.
+
+Lemma lead_coefN p : lead_coef (- p) = - lead_coef p.
+Proof. by rewrite /lead_coef size_polyN coefN. Qed.
+
+(* Polynomial ring structure. *)
```
Comment (Tragicus) [inline algebra/poly.v]: This comment does not give any useful information, even more so that `size_Msign` is about `size`, which is the subject of the previous "section".

File: algebra/poly.v [hunk 9]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+Lemma derivnB n : {morph derivn n : p q / p - q}.
+Proof. exact: linearB. Qed.
+
+Lemma derivnMNn n m p : (p *- m)^`(n) = p^`(n) *- m.
+Proof. exact: linearMNn. Qed.
+
+Lemma derivnN n : {morph derivn n : p / - p}.
+Proof. exact: linearN. Qed.
+
+(* Here is the division by n! *)
```
Comment (Tragicus) [inline algebra/poly.v]: This comment should disappear, there is nothing with `n!` here.

File: algebra/poly.v [hunk 10]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+
+Lemma nderivnN n : {morph nderivn n : p / - p}.
+Proof. exact: linearN. Qed.
+
+End PolynomialTheory.
+#[deprecated(since="mathcomp 2.4.0", note="renamed to `size_polyN`")]
+Notation size_opp := size_polyN (only parsing).
+
+(* Monic predicate *)
+Section Monic.
```
Comment (Tragicus) [inline algebra/poly.v]: If this section is about semirings, why not put it in the `SemiPolynomialTheory` section?

File: algebra/poly.v [hunk 11]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+Lemma monicXnaddC n c : 0 < n -> 'X^n + c%:P \is monic.
+Proof. by move=> n_gt0; rewrite monicE lead_coefXnaddC. Qed.
+
+End Monic.
+
+Arguments monic {R}.
+Arguments monic_pred _ _ /.
+Arguments monicP {R p}.
+
+Section Monic.
```
Comment (Tragicus) [inline algebra/poly.v]: Similarly, this can go in the `PolynomialTheory` section.

File: algebra/poly.v [hunk 12]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+Proof. by move=> n_gt0; rewrite monicE lead_coefXnsubC. Qed.
+
+#[deprecated(since="mathcomp 2.3.0'",note="Use monicXnsubC instead.")]
+Lemma monic_Xn_sub_1 n : n > 0 -> 'X^n - 1 \is @monic R.
+Proof. exact/monicXnsubC. Qed.
+
+End Monic.
+
+(* Some facts about regular elements. *)
+Section Regular.
```
Comment (Tragicus) [inline algebra/poly.v]: This can go in the `SemiPolynomialTheory` section.

File: algebra/poly.v [hunk 13]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+by case: (size q) => [|? _] //; rewrite addSn /= leq_addl.
+Qed.
+
+Lemma monic_comreg p :
+  p \is monic -> GRing.comm p (lead_coef p)%:P /\ GRing.rreg (lead_coef p).
+Proof. by move/monicP->; split; [apply: commr1 | apply: rreg1]. Qed.
+
+End Regular.
+
+Section Regular.
```
Comment (Tragicus) [inline algebra/poly.v]: This can go in the `PolynomialTheory` section.

File: algebra/poly.v [hunk 14]
```diff
@@ -1703,207 +1207,722 @@ rewrite nth_default; first by rewrite mul0rn coef0.
...
+Lemma monic_lreg p : p \is monic -> GRing.lreg p.
+Proof. by move=> /eqP lp1; apply/lreg_lead; rewrite lp1; apply/lreg1. Qed.
+
+Lemma monic_rreg p : p \is monic -> GRing.rreg p.
+Proof. by move=> /eqP lp1; apply/rreg_lead; rewrite lp1; apply/rreg1. Qed.
+
+End Regular.
+
+(* Roots of polynomials *)
+Section Roots.
```
Comment (Tragicus) [inline algebra/poly.v]: This can go in the `SemiPolynomialTheory` section.

File: algebra/poly.v [hunk 15]
```diff
@@ -2021,14 +2040,14 @@ Lemma map_poly_comp (g : iR -> aR) p :
...
 Proof. exact: map_poly_comp_id0 (raddf0 f). Qed.
 
-Fact map_poly_is_zmod_morphism : zmod_morphism (map_poly f).
-Proof. by move=> p q; apply/polyP=> i; rewrite !(coef_map, coefB) raddfB. Qed.
-#[deprecated(since="mathcomp 2.5.0",
-      note="use `map_poly_is_zmod_morphism` instead")]
-Definition map_poly_is_additive := map_poly_is_zmod_morphism.
+Fact map_poly_is_nmod_morphism : nmod_morphism (map_poly f).
+Proof.
+split=> [|p q]; apply/polyP=> i; first by rewrite coef_map !coef0 raddf0.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
split=> [|p q]; apply/polyP => i; first by rewrite coef_map !coef0 raddf0.
```

File: algebra/poly.v [hunk 16]
```diff
@@ -2128,8 +2126,11 @@ Proof. by rewrite /horner_morph map_polyC hornerC. Qed.
 Lemma horner_morphX : horner_morph cfu 'X = u.
 Proof. by rewrite /horner_morph map_polyX hornerX. Qed.
 
-Fact horner_is_linear : linear_for (f \; *%R) (horner_morph cfu).
-Proof. by move=> c p q; rewrite /horner_morph linearP /= hornerD hornerZ. Qed.
+Fact horner_is_semilinear : semilinear_for (f \; *%R) (horner_morph cfu).
```
Comment (Tragicus) [inline algebra/poly.v:2095]: `horner_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 17]
```diff
@@ -2228,24 +2267,21 @@ Proof. by rewrite comp_polyCr horner_coef0. Qed.
 Lemma comp_polyC c p : c%:P \Po p = c%:P.
 Proof. by rewrite /(_ \Po p) map_polyC hornerC. Qed.
 
-Fact comp_poly_is_linear p : linear (comp_poly p).
+Fact comp_poly_is_semilinear p : semilinear (comp_poly p).
```
Comment (Tragicus) [inline algebra/poly.v:2282]: `comp_poly_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 18]
```diff
@@ -2311,9 +2338,70 @@ rewrite comp_poly_MXaddC !rmorphD !rmorphM /= !map_polyC map_polyX.
...
+by case: ltngtP (prime_gt1 p_prime).
+Qed.
+
+Lemma pchar_prim_root : [pchar R]^'.-nat n.
+Proof. by apply/pnatP=> // p pp pn; rewrite inE/= prim_root_pcharF. Qed.
+
+Lemma prim_root_pi_eq0 m : \pi(n).-nat m -> m%:R != 0 :> R.
+Proof.
+rewrite natf_neq0_pchar; apply: sub_in_pnat => p _.
+by apply: pnatPpi pchar_prim_root.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
exact: pnatPpi pchar_prim_root.
```

File: algebra/poly.v [hunk 19]
```diff
@@ -2346,18 +2434,16 @@ Proof. by apply/polyP => i; rewrite !(coef_even_poly, coefD). Qed.
 Lemma even_polyZ k p : even_poly (k *: p) = k *: even_poly p.
 Proof. by apply/polyP => i; rewrite !(coefZ, coef_even_poly). Qed.
 
-Fact even_poly_is_linear : linear even_poly.
-Proof. by move=> k p q; rewrite even_polyD even_polyZ. Qed.
+Fact even_poly_is_semilinear : semilinear even_poly.
```
Comment (Tragicus) [inline algebra/poly.v]: `even_poly_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 20]
```diff
@@ -2382,12 +2468,11 @@ Proof. by apply/polyP => i; rewrite !(coef_odd_poly, coefD). Qed.
 Lemma odd_polyZ k p : odd_poly (k *: p) = k *: odd_poly p.
 Proof. by apply/polyP => i; rewrite !(coefZ, coef_odd_poly). Qed.
 
-Fact odd_poly_is_linear : linear odd_poly.
-Proof. by move=> k p q; rewrite odd_polyD odd_polyZ. Qed.
+Fact odd_poly_is_semilinear : semilinear odd_poly.
```
Comment (Tragicus) [inline algebra/poly.v]: `odd_poly_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 21]
```diff
@@ -2460,12 +2545,11 @@ apply/polyP => i; rewrite !(coefZ, coef_take_poly); case: leqP => //.
 by rewrite mulr0.
 Qed.
 
-Fact take_poly_is_linear m : linear (take_poly m).
-Proof. by move=> k p q; rewrite take_polyD take_polyZ. Qed.
+Fact take_poly_is_semilinear m : semilinear (take_poly m).
```
Comment (Tragicus) [inline algebra/poly.v]: `take_poly_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 22]
```diff
@@ -2523,12 +2606,11 @@ Proof. by apply/polyP => i; rewrite coefD !coef_drop_poly coefD. Qed.
 Lemma drop_polyZ k m p : drop_poly m (k *: p) = k *: drop_poly m p.
 Proof. by apply/polyP => i; rewrite coefZ !coef_drop_poly coefZ. Qed.
 
-Fact drop_poly_is_linear m : linear (drop_poly m).
-Proof. by move=> k p q; rewrite drop_polyD drop_polyZ. Qed.
+Fact drop_poly_is_semilinear m : semilinear (drop_poly m).
```
Comment (Tragicus) [inline algebra/poly.v]: `drop_poly_is_linear` should be kept and deprecated.

File: algebra/poly.v [hunk 23]
```diff
@@ -2664,13 +2692,8 @@ Definition hornerE :=
...
 Lemma horner_evalE x p : horner_eval x p = p.[x]. Proof. by []. Qed.
 
-Fact horner_eval_is_linear x : linear_for *%R (horner_eval x).
-Proof.
-have cxid: commr_rmorph idfun x by apply: mulrC.
-have evalE : horner_eval x =1 horner_morph cxid.
-  by move=> p; congr _.[x]; rewrite map_poly_id.
-by move=> c p q; rewrite !evalE linearP.
-Qed.
+Fact horner_eval_is_semilinear x : semilinear_for *%R (horner_eval x).
```
Comment (Tragicus) [inline algebra/poly.v]: `horner_eval_is_linear` should be kept and deprecated.

**Comment by Tragicus** [comment]
Yes, sure, in the end it will be generalized to `pzSemiRingType` but we can get `nzSemiRingType` now basically for free.

**Comment by pi8027** [comment]
Done, but CI looks very broken.

File: algebra/poly.v [hunk 24]
```diff
@@ -927,598 +837,783 @@ Qed.
...
-Lemma monicP p : reflect (lead_coef p = 1) (p \is monic).
-Proof. exact: eqP. Qed.
+(* Horner evaluation of polynomials *)
+Implicit Types s rs : seq R.
 
-Lemma monic1 : 1 \is monic. Proof. exact/eqP/lead_coef1. Qed.
-Lemma monicX : 'X \is monic. Proof. exact/eqP/lead_coefX. Qed.
-Lemma monicXn n : 'X^n \is monic. Proof. exact/eqP/lead_coefXn. Qed.
+Fixpoint horner_rec s x := if s is a :: s' then horner_rec s' x * x + a else 0.
+Definition horner p := horner_rec p.
```
Comment (pi8027) [inline algebra/poly.v:840]: In the long run, I believe that we should unify `horner` and `horner_eval` (deprecate the latter) by declaring `horner` as a semilinear function. To do so, we need to swap the arguments of `horner` or fix an issue in HB.

File: doc/changelog/02-changed/1395-semi-poly.md [hunk 25]
```diff
@@ -0,0 +1,87 @@
...
+    `take_poly`, `drop_poly` generalized to `nzSemiRingType`
+  + Semialgebra morphism instance on `horner_morph` and `comp_poly` generalized
+    to `comNzSemiRingType`
+  + Semialgebra morphism instance on `horner_eval` generalized to
+    `comNzSemiRingType`
+  + Semialgebra morphism instance on `horner_alg` generalized to `semiAlgType`
+  + `addrClosed`, `mulr2Closed`, `mulrClosed`, `semiring2Closed`,
+    `semiringClosed` instances on `polyOver` generalized to `nzSemiRingType`
+  + `mulrClosed` instance on `monic` generalized to `nzSemiRingType`
+  + Lemmas `coefMn`, `coef_sum`, `polyCMn`, `polyC_exp`, `polyC_natr`,
```
Comment (Tragicus) [inline doc/changelog/02-changed/1395-semi-poly.md:31]: This is missing `hornerXn`.

File: algebra/poly.v [hunk 26]
```diff
@@ -927,663 +829,805 @@ Qed.
...
-  by rewrite muln_divCA_gcd dvdn_mulr.
-have zkn_1: z ^+ k ^+ n = 1 by rewrite exprAC (prim_expr_order prim_z) expr1n.
-have{zkn_1} [m prim_zk dv_m_n]:= prim_order_exists n_gt0 zkn_1.
-suffices /eqP <-: m == n by [].
-rewrite eqn_dvd dv_m_n -(@Gauss_dvdr n k m) 1?coprime_sym //=.
-by rewrite (prim_order_dvd prim_z) exprM (prim_expr_order prim_zk).
+move=> /mulIr_eq0 reg_d lt_r_d; rewrite addrC.
+have [-> | nz_q] := eqVneq q 0; first by rewrite mul0r addr0.
+have mul_lead_coef_neq0: lead_coef q * lead_coef d != 0.
+  by rewrite reg_d lead_coef_eq0.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
have qd0: lead_coef q * lead_coef d != 0 by rewrite reg_d lead_coef_eq0.
```
Or maybe even `have ?`.

File: algebra/poly.v [hunk 27]
```diff
@@ -927,663 +829,805 @@ Qed.
...
+apply/negbTE; rewrite -size_poly_eq0 addrC size_polyDl.
+  by rewrite size_poly_eq0 -lead_coef_eq0 lead_coef_proper_mul.
+apply: leq_trans lt_r_d _; rewrite size_proper_mul //.
+move: nz_q; rewrite -size_poly_eq0.
+by case: (size q) => [|? _] //; rewrite addSn /= leq_addl.
```
Comment (Tragicus) [inline algebra/poly.v]:
```suggestion
by case: (size q) => [//|] ? _; rewrite addSn /= leq_addl.
```

File: algebra/poly.v [hunk 28]
```diff
@@ -927,663 +829,805 @@ Qed.
...
 Qed.
-HB.instance Definition _ := GRing.isAddClosed.Build {poly R} (polyOver_pred S)
-  polyOver_addr_closed.
 
-End PolyOverAdd.
+End SemiPolynomialTheory.
 
-Section PolyOverSemiRing2.
+Prenex Implicits polyC polyCK Poly polyseqK lead_coef horner polyOver.
+Prenex Implicits deriv derivn root.
```
Comment (Tragicus) [inline algebra/poly.v:1472]: Do we document changes to implicit arguments?

File: algebra/poly.v [hunk 29]
```diff
@@ -2588,142 +2698,35 @@ apply/polyP=> i; rewrite coefM coefMr.
...
       note="use `horner_eval_is_monoid_morphism` instead")]
 Definition horner_eval_is_multiplicative x :=
   (fun g => (g.2, g.1)) (horner_eval_is_monoid_morphism x).
-HB.instance Definition _ x :=
-  GRing.isSemilinear.Build R {poly R} R _ (horner_eval x)
-    (GRing.semilinear_linear (horner_eval_is_linear x)).
 
 HB.instance Definition _ x :=
   GRing.isMonoidMorphism.Build {poly R} R (horner_eval x)
     (horner_eval_is_monoid_morphism x).
```
Comment (Tragicus) [inline algebra/poly.v:2717]: This instance was generalized to `comNzSemiRingType` and not documented.

File: algebra/poly.v [hunk 30]
```diff
@@ -2997,8 +3067,12 @@ End PolynomialIdomain.
 
 (* FIXME: these are seamingly artificial ways to close the inheritance graph *)
 (*    We make parameters more and more precise to trigger completion by HB   *)
+HB.instance Definition _ (R : countNzSemiRingType) :=
+  [Countable of polynomial R by <:].
 HB.instance Definition _ (R : countNzRingType) :=
   [Countable of polynomial R by <:].
+HB.instance Definition _ (R : countComNzSemiRingType) :=
+  [Countable of polynomial R by <:].
```
Comment (Tragicus) [inline algebra/poly.v:3074]: These are not documented.

File: algebra/poly.v (hunk 28 above)
Comment (proux01) [reply algebra/poly.v:1472]: If the constant is reasonnably likely to be used without @, change in implicit arguments can be a breaking change for users, so worth documenting.

**Comment by pi8027** [comment]
Done.

**Comment by pi8027** [comment]
@Tragicus Thank you!
